US05116741
Z-L-Tyr-Gly-Gly-OH
0.5 g (1.1 mmole) of Z-L-Tyr-Gly-Gly-OMe was dissolved in 3 mL of methanol. Two equivalents of 4 N NaOH were added, and the reaction was stirred for 2 hours, at which time TLC revealed all the starting material had been consumed. (Rf :Z-Tyr-Gly-Gly-OMe, 0.76: Z-Tyr-Gly-Gly-OH, 0.32.) The pH was adjusted to neutrality with 6N HCl and the reaction concentrated under vacuum. 0.5 mL of water was added and the pH dropped to 2. This aqueous solution was washed (4x) with ethyl acetate and the combined ethyl acetate fractions were dried over MgSO4, then concentrated under vacuum. The residue was crystallized from CH2Cl2 /hexanes. Yield 450 mg (95%). M.P. 213°-214° C. (lit. 214°-215° C.). [α]D -23.9 (c 1.2, DMF). Amino acid analysis: tyr1.0, gly1.9.

reactant | Z-L-Tyr-Gly-Gly-OMe | 1.1 mmole, 0.5 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)NCC(=O)OC)C(=O)OCC1=CC=CC=C1 | C22H25N3O7
reactant | NaOH | 4 N, Two equivalents | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | Z-L-Tyr-Gly-Gly-OH | N([C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)NCC(=O)O)C(=O)OCC1=CC=CC=C1 | C21H23N3O7
